US07005440B1
3-(2-methoxy-ethoxymethoxy)-phenyliodide
To a suspension of 60% sodium hydride (1.76 g, 44 mmol) in THF (10 mL), cooled to 0° C., is added 3-iodophenol (8.8 g, 40 mmol) and methoxyethoxymethyl chloride (5 mL, 44 mmol) in THF (50 mL). Then DMPU (10 mL) is added, the cooling bath is removed and the reaction is stirred for an hour. The reaction is diluted with ether, washed with water and brine and the organic layer dried over magnesium sulfate. The solvent is removed in vacuo to give the title compound.

reactant | sodium hydride | 44 mmol, 1.76 g | [H-].[Na+]
reactant | 3-iodophenol | 40 mmol, 8.8 g | IC=1C=C(C=CC1)O | C6H5IO
reactant | methoxyethoxymethyl chloride | 44 mmol, 5 mL | COCCOCCl | C4H9ClO2
reactant | DMPU | 10 mL | CN1CCCN(C1=O)C | C6H12N2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-(2-methoxy-ethoxymethoxy)-phenyliodide | COCCOCOC=1C=C(C=CC1)I | C10H13IO3
